US07294637B2
[1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone
iPrEtN (1.78 mL, 10.2 mmol) and pyBrOP (2.39 g, 5.12 mmol) were added at room temperature to a stirring solution of azepan-3-yl-methanol (0.4392 g, 3.41 mmol) and 1-(4-Chlorophenyl)-cyclobutanecarboxylic acid (1.0778 g, 5.12 mmol) in CH2Cl2 under N2. When the reaction was complete, the reaction was subjected to aqueous work-up. Silica gel purification (4:1 to 2:3 Hexanes: Ethyl acetate) provided the desired product in 95% yield (1.0395 g). LRMS: 321.91.

reactant | pyBrOP | 5.12 mmol, 2.39 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | azepan-3-yl-methanol | 3.41 mmol, 0.4392 g | N1CC(CCCC1)CO | C7H15NO
reactant | 1-(4-Chlorophenyl)-cyclobutanecarboxylic acid | 5.12 mmol, 1.0778 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone | 95% yield | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC(CCCC1)CO | C18H24ClNO2
